US04595535
To a solution of 6.25 g of 2-methyl-5-cyanothio-11H-1,2,4-triazolo[2,3-c][1,3]benzodiazepine in 7.3 ml of hexamethylphosphoramide is added dropwise, at 0°, 4.94 g of N-methylpiperazine over a period of 5 minutes. The mixture is stirred at room temperature for 4 hours, poured into water and extracted with ethyl acetate. The organic extracts are washed with water, dried over magnesium sulfate and evaporated to dryness to give 2-methyl-5-(4-methyl-1-piperazinyl)-11H-1,2,4-triazolo[2,3-c][1,3]benzodiazepine, m.p. 185°-187°. This material is treated with an equivalent amount of maleic acid to give 2-methyl-5-(4-methyl-1-piperazinyl)-11H-1,2,4-triazolo[2,3-c][1,3]benzodiazepine monomaleate of example 1.

reactant | 2-methyl-5-cyanothio-11H-1,2,4-triazolo[2,3-c][1,3]benzodiazepine | 6.25 g | CC=1N=C2N(C(=NC3=C(C2)C=CC=C3)SC#N)N1 | C12H9N5S
reactant | N-methylpiperazine | 4.94 g | CN1CCNCC1 | C5H12N2
reactant | water | O | H2O
solvent | hexamethylphosphoramide | 7.3 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-methyl-5-(4-methyl-1-piperazinyl)-11H-1,2,4-triazolo[2,3-c][1,3]benzodiazepine | CC=1N=C2N(C(=NC3=C(C2)C=CC=C3)N3CCN(CC3)C)N1 | C16H20N6
